US03959298
5.0 g. of Acetonine was dissolved in a mixed solvent comprising 10 g. of acetone and 10 g. of methanol. The solution was added dropwise with a solution of 2.1 g. of nitric acid containing 0.63 g. of water in 10 g. of acetone and 10 g. of methanol at 15°-20°C. After completion of the addition, the mixture was maintained at room temperature for 24 hours to effect the reaction. After completion of the reaction, the reaction mixture was purified in the same manner as in Example 5 to obtain triacetonamine in a yield of 119%.

reactant | Acetonine | CC1=NC(NC(C1)(C)C)(C)C | C9H18N2
reactant | nitric acid | 0.63 g | [N+](=O)(O)[O-] | HNO3
solvent | methanol | CO | CH4O
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | triacetonamine | yield of 119% | CC1(CC(=O)CC(N1)(C)C)C | C9H17NO
